US06673799B1
(2R,5S)-N-(2-Bromo-4-pyridyl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide
A 1.66 g portion of 4-amino-2-bromopyridine was dissolved in 1.4 ml of pyridine, mixed with 2.0 g of phenyl chloroformate and stirred at room temperature for 4 days. Next, this was mixed with 2 g of (2S,5R)-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile synthesized in Reference Example 11-1 and heated at 100° C. for 1 hour and 30 minutes. After evaporation of the solvent, the residue was dissolved in ethyl acetate, washed with water and then with saturated brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was subjected to a silica gel column chromatography and eluted with chloroform-methanol (30:1, v/v), and the resulting fraction was subjected to crystallization from ethyl acetate-hexane to obtain 2.7 g of the title compound.

reactant | 4-amino-2-bromopyridine | NC1=CC(=NC=C1)Br | C5H5BrN2
reactant | phenyl chloroformate | 2.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | (2S,5R)-4-(2,5-dimethylpiperazin-1-yl)-2-trifluoromethylbenzonitrile | 2 g | C[C@@H]1N(C[C@H](NC1)C)C1=CC(=C(C#N)C=C1)C(F)(F)F | C14H16F3N3
solvent | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
product | (2R,5S)-N-(2-Bromo-4-pyridyl)-4-(4-cyano-3-trifluoromethylphenyl)-2,5-dimethylpiperazine-1-carboxamide | 2.7 g | BrC1=NC=CC(=C1)NC(=O)N1[C@@H](CN([C@H](C1)C)C1=CC(=C(C=C1)C#N)C(F)(F)F)C | C20H19BrF3N5O
